US07781428B2
(±)-(3SR,3aRS)-2-cyclohexylethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and 2-cyclohexylethanol according to Method E (yellow solid, 172 mg, 0.325 mmol, 68% yield). ES HRMS m/z calc. for C32H37ClN3O2 (M+H) 530.2569, found 530.2534.

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | 2-cyclohexylethanol | C1(CCCCC1)CCO | C8H16O
product | (±)-(3SR,3aRS)-2-cyclohexylethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | 68% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OCCC3CCCCC3 | C32H36ClN3O2
